US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[3-[N-(2-aminoethyl)carbamoyl]imidazo[5,1-b]thiazolium-6-yl]methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that dimedone was used as a trapping agent in a deprotective reaction, and 145 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 340 mg of 3-[N-(2-allyloxycarbonylaminoethyl)carbamoyl]imidazo[5,1-b]thiazole were used, thereby obtaining 9.3 mg of the title compound.

reactant | dimedone | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 145 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 3-[N-(2-allyloxycarbonylaminoethyl)carbamoyl]imidazo[5,1-b]thiazole | 340 mg | C(C=C)OC(=O)NCCNC(=O)C=1N2C(SC1)=CN=C2 | C12H14N4O3S
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[3-[N-(2-aminoethyl)carbamoyl]imidazo[5,1-b]thiazolium-6-yl]methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 9.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3C(NCCN)=O)=C2)C(=O)[O-])C1=O | C19H23N5O5S
